US04824848
5-butyl-3-ethylamino-7-(4-methoxybenzyl)pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione
A solution of 3-butyl-6-hydrazino-1-(4-methoxybenzyl)uracil 0.64 g, 2 mM) and ethyl isothiocyanate (0.53 ml, 6 mM) in DMF (6 ml) was stirred at 90° C. for 14 hours and then at 110° C. for 14 hours. To the solution was added water (2 ml) and the mixture was cooled to give crystals. Recrystallization from DMF/ethanol/water gave colorless needles (0.52 g, 70%), m.p. 234°-236° C.

reactant | 3-butyl-6-hydrazino-1-(4-methoxybenzyl)uracil | 2 mM, 0.64 g | C(CCC)N1C(N(C(=CC1=O)NN)CC1=CC=C(C=C1)OC)=O | C16H22N4O3
reactant | ethyl isothiocyanate | 6 mM, 0.53 ml | C(C)N=C=S | C3H5NS
reactant | water | 2 ml | O | H2O
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | 5-butyl-3-ethylamino-7-(4-methoxybenzyl)pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | 0.52 g, 70% | C(CCC)N1C(N(C2=C(C1=O)C(=NN2)NCC)CC2=CC=C(C=C2)OC)=O | C19H25N5O3
